US06133271
2-Amino-5-methyl-3-ethoxycarbonyl-thiophene (5 g) is solved with 3-cyanopyrimidine (2.7 g) in dioxane (40 ml). Then gaseous HCl is conducted through the solution for 5 hours. The usual workup yields 3,4-dihydro-4-oxo-2-(pyridin-3-yl)-6-methyl-thieno-[2,3-d]-pyrimidine (6 g).

reactant | 2-Amino-5-methyl-3-ethoxycarbonyl-thiophene | 5 g | NC=1SC(=CC1C(=O)OCC)C | C8H11NO2S
reactant | 3-cyanopyrimidine | 2.7 g | C(#N)N1CN=CC=C1 | C5H5N3
reactant | HCl | Cl | ClH
reactant | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 3,4-dihydro-4-oxo-2-(pyridin-3-yl)-6-methyl-thieno-[2,3-d]-pyrimidine | 6 g | O=C1C2=C(N=C(N1)C=1C=NC=CC1)SC(=C2)C | C12H9N3OS
